US07709471B2
N-(1-methyl-4-piperidyl)-7-nitro-benzo[1,3]dioxole-4-carboxamide
4-Amino-1-methylpiperidine (Fluorochem; 325 mg, 2.84 mmol), HATU (1.09 g, 2.84 mmol) and 7-nitrobenzo[1,3]dioxole-4-carboxylic acid (WO 2003082827; 400 mg, 1.89 mmol) were stirred in DMF (5 mL) and diisopropylethylamine (0.99 ml, 5.68 mmol) added. The mixture was stirred for 2 hours at room temperature. The reaction mixture was loaded on to an SCX column, which was subsequently washed with methanol and eluted with ammonia in methanol. Product containing fractions were concentrated and the solid suspended in methanol and filtered off to yield the title compound as a yellow solid (295 mg, 51%).

reactant | 4-Amino-1-methylpiperidine | 2.84 mmol, 325 mg | NC1CCN(CC1)C | C6H14N2
reactant | HATU | 2.84 mmol, 1.09 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 7-nitrobenzo[1,3]dioxole-4-carboxylic acid | 1.89 mmol, 400 mg | [N+](=O)([O-])C1=CC=C(C2=C1OCO2)C(=O)O | C8H5NO6
reactant | diisopropylethylamine | 5.68 mmol, 0.99 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(1-methyl-4-piperidyl)-7-nitro-benzo[1,3]dioxole-4-carboxamide | 295 mg, 51% | CN1CCC(CC1)NC(=O)C1=CC=C(C=2OCOC21)[N+](=O)[O-] | C14H17N3O5
